US06316389B1
H-12: Methyl 5-chloro-2-methoxyiminopent-3-ynoate
1.4 ml of ethyl chloroformate are added to a solution of 12.1 g of methyl 2-methoxyimino-5-morpholin-4-ylpent-3-ynoate in 25 ml of THF. The mixture is now heated for 20 hours at 70°. After evaporation, the residue is chromatographed on silica gel (ether/hexane 1:2). This gives 8.2 g of colourless crystals of the title compound of melting point 64-67°.

reactant | ethyl chloroformate | 1.4 ml | ClC(=O)OCC | C3H5ClO2
reactant | methyl 2-methoxyimino-5-morpholin-4-ylpent-3-ynoate | 12.1 g | CON=C(C(=O)OC)C#CCN1CCOCC1 | C11H16N2O4
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | Methyl 5-chloro-2-methoxyiminopent-3-ynoate | ClCC#CC(C(=O)OC)=NOC | C7H8ClNO3
